US05171851
Preparation of 8-methyl-6-(4-methylimidazol-1-yl)-(4H)-3,1-benzoxazin-2-thione
A mixed solution of 2-amino-3-methyl-5-(4-methylimidazol-1-yl)benzylalcohol (135 mg), N,N'-thiocarbonyldiimidazole (116 mg) and acetone (3.1 ml) was heated under stirring under nitrogen atmosphere for 2 hours. The mixture was distilled under reduced pressure to give a residue. The residue was column chromatographed(chloroform: methanol=30:1) to give 95 mg (59.0%) of the title compound.

reactant | 2-amino-3-methyl-5-(4-methylimidazol-1-yl)benzylalcohol | 135 mg | NC1=C(CO)C=C(C=C1C)N1C=NC(=C1)C | C12H15N3O
reactant | N,N'-thiocarbonyldiimidazole | 116 mg | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
solvent | acetone | 3.1 ml | CC(=O)C | C3H6O
product | 8-methyl-6-(4-methylimidazol-1-yl)-(4H)-3,1-benzoxazin-2-thione | 95 mg, 59.0% | CC1=CC(=CC=2COC(NC21)=S)N2C=NC(=C2)C | C13H13N3OS
